US08703761B2
A. 4-(4-Fluoro-phenyl)-5-morpholin-4-yl-thiazol-2-ylamine
5-Bromo-4-(4-fluoro-phenyl)-thiazole-2-ylamine and morpholine (6 eq) were stirred for 30 minutes at 120 C, under microwave heat. Triturated with ethyl acetate/n-Heptane solvent mixture (1:2 ratio) to afford the title compound pure. LCMS Method A Rt=1.14 (M+1=280.0, M−1=278.1). 1H NMR (400 MHz, DMSO-D6) 2.67-2.75 (m, 4H) 3.67-3.74 (m, 4H) 6.87 (s, 2H) 7.14-7.20 (m, 2H) 8.11 (ddd, J=12.41, 5.53, 3.03 Hz, 2H).

reactant | 5-Bromo-4-(4-fluoro-phenyl)-thiazole-2-ylamine | BrC1=C(N=C(S1)N)C1=CC=C(C=C1)F | C9H6BrFN2S
reactant | morpholine | 6 eq | N1CCOCC1 | C4H9NO
product | 4-(4-Fluoro-phenyl)-5-morpholin-4-yl-thiazol-2-ylamine | FC1=CC=C(C=C1)C=1N=C(SC1N1CCOCC1)N | C13H14FN3OS
